US04640708
A mixture of 3-hydroxy-5-(2,3-dimethylnaphth-1-yl)cyclohex-2-en-1-one (1.5 g), butyric anhydride (4 ml) and butyric acid (4 ml) was stirred and heated at 110° C. until homogeneous. Trifluoromethanesulfonic acid (5 drops) was added and the mixture was heated at 110°-120° C. for 1 hour under an atmosphere of nitrogen. The mixture was poured with stirring into ice-water, neutralized with sodium bicarbonate and then extracted with diethyl ether. The dried (MgSO4) organic extract was evaporated and the residue was purified by column chromatography over silica gel with dichloromethane elution to give 3-hydroxy-5-(2,3-dimethylnaphth-1-yl)-2-butyrylcyclohex-2-en-1-one as a pale yellow oil.

reactant | 3-hydroxy-5-(2,3-dimethylnaphth-1-yl)cyclohex-2-en-1-one | 1.5 g | OC1=CC(CC(C1)C1=C(C(=CC2=CC=CC=C12)C)C)=O | C18H18O2
reactant | butyric anhydride | 4 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | butyric acid | 4 ml | C(CCC)(=O)O | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Trifluoromethanesulfonic acid | 5 drops | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 3-hydroxy-5-(2,3-dimethylnaphth-1-yl)-2-butyrylcyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=C(C(=CC2=CC=CC=C12)C)C)=O)C(CCC)=O | C22H24O3
